US08729079B2
b: Ethyl 4-methyl-6-(methylthio)-2-phenylpyrimidine-5-carboxylate
To a solution of ethyl 2-(bis(methylthio)methylene)-3-oxobutanoate (500 mg, 2 mmol) in ethanol was added benzamidine acetate (732 mg, 6 mmol) and triethyl amine (1.41 mL) and the reaction mixture was refluxed overnight. The reaction mixture was concentrated and partitioned between ethyl acetate and water and the organic layer washed with water and dried over Na2SO4 and the solvent evaporated in vacuum. The crude product was purified by column chromatography over silica gel using 1% ethyl acetate in petroleum ether as eluent to give the desired product (350 mg). 1H-NMR 400 Hz (CDCl3): δ 8.50 (d, J=7.6 Hz, 2H), 7.50-7.46 (m, 3H), 4.45 (q, J=7.2 Hz, 2H), 2.67 (s, 3H), 2.65 (s, 3H), 1.44 (t, J=7.2 Hz, 3H); MS m/z 288.7 (M+1).

reactant | ethyl 2-(bis(methylthio)methylene)-3-oxobutanoate | 2 mmol, 500 mg | CSC(=C(C(=O)OCC)C(C)=O)SC | C9H14O3S2
reactant | benzamidine acetate | 6 mmol, 732 mg | C(C)(=O)O.C(C1=CC=CC=C1)(=N)N
reactant | triethyl amine | 1.41 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 4-methyl-6-(methylthio)-2-phenylpyrimidine-5-carboxylate | 350 mg | CC1=NC(=NC(=C1C(=O)OCC)SC)C1=CC=CC=C1 | C15H16N2O2S
